US07087626B2
3-Bromo-2-(6-methyl-pyridin-2-yl)-5,6-dihydro-4H-pyrrolo[1,2-b]pyrazole
A solution of 2-(6-methyl-pyridin-2-yl)-5,6-dihydro-4H-pyrrolo[1,2-b]pyrazole-3-carboxylic acid (1.4 g, 5.8 mmol) in N,N-dimethylformamide (20 mL) is treated with N-bromosuccinamide (1 g, 5.6 mmol) and stirred at room temperature for 16 h. The mixture is diluted with ethyl acetate and washed three times with water, once with brine, dried (sodium sulfate), filtered, and concentrated in vacuo to yield the title compound, 1.5 g (94%), as light yellow solid.

reactant | 2-(6-methyl-pyridin-2-yl)-5,6-dihydro-4H-pyrrolo[1,2-b]pyrazole-3-carboxylic acid | 5.8 mmol, 1.4 g | CC1=CC=CC(=N1)C=1C(=C2N(N1)CCC2)C(=O)O | C13H13N3O2
reactant | N-bromosuccinamide | 5.6 mmol, 1 g | BrNC(CCC(=O)N)=O | C4H7BrN2O2
solvent | N,N-dimethylformamide | 20 mL | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 3-Bromo-2-(6-methyl-pyridin-2-yl)-5,6-dihydro-4H-pyrrolo[1,2-b]pyrazole | BrC1=C2N(N=C1C1=NC(=CC=C1)C)CCC2 | C12H12BrN3
